US07157447B2
5-(2-Bromo-5-fluoro-phenyl)-1-methyl-2H-tetrazole.
A mixture of 5-(2-bromo-5-fluoro-phenyl)-1H-tetrazole (1.0 g, 4.12 mmol), iodomethane (1.12 g, 10 mmol) and potassium carbonate (1.5 g) in dimethylformamide (5 mL) was stirred at room temperature for 16 hrs, then concentrated in vacuo. The residue was purified by column chromatography (SiO2, CH2Cl2) to provide 350 mg (Yield 33%) of the title compound as white crystals. 1H NMR (500 MHz, CDCl3) δ ppm: 4.00 (3H, s) 7.18–7.25 (2H, m) 7.72 (1H, dd, J=8.4, 5.0 Hz); 13C NMR (126 MHz, CDCl3) δ ppm: 34.59, 117.73, 119.58, 120.43, 127.57, 135.11, 153.43, 161.69. LC/MS m/z 257/259.

reactant | 5-(2-bromo-5-fluoro-phenyl)-1H-tetrazole | 4.12 mmol, 1.0 g | BrC1=C(C=C(C=C1)F)C1=NN=NN1 | C7H4BrFN4
reactant | iodomethane | 10 mmol, 1.12 g | IC | CH3I
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-(2-Bromo-5-fluoro-phenyl)-1-methyl-2H-tetrazole | 350 mg, Yield 33% | BrC1=C(C=C(C=C1)F)C1=NNNN1C | C8H8BrFN4
